US08912208B2
C. (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylamino)-pyrazin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester
A solution of (5-Bromo-pyrazin-2-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine (0.072 g) and {4-[4-(5-bromo-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (0.087 g) in 2 Ml DME was charged with 2 M sodium carbonate (1 Ml) and Pd(PPh3)4 (0.027 g, 0.1 equiv). The biphasic mixture was sparged with nitrogen for 3 min, then stirred at 130° C. under microwave heating for 30 min. The reaction was partitioned between EtOAc and water, and the organic extracts were dried over magnesium sulphate and concentrated in vacuo. Purification by silica gel chromatography (33% EtOAc in hexanes) afforded the title compound: (M+H)+ 471.2.

reactant | (5-Bromo-pyrazin-2-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine | 0.072 g | BrC=1N=CC(=NC1)NC=1C=NC(=CC1)C(F)(F)F | C10H6BrF3N4
reactant | {4-[4-(5-bromo-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.087 g | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)Br)=O | C20H22BrNO2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.027 g, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylamino)-pyrazin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(N=C1)NC=1C=NC(=CC1)C(F)(F)F)=O | C25H25F3N4O2
